US06610688B2
The mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (90 mg, 0.32 mmol), 5-(morpholine-4-carbonyl)-thiophene-2-carbaldehyde (82 mg, 0.36 mmol), and triethylamine (2 drops) in ethanol (3 mL) was heated at 90° C. oil bath for 2 hours, and cooled to room temperature. The solvent was evaporated and the residue was purified on a silica gel column eluting with methylene chloride-methanol (98:2 and 95:5) to provide pure 4-(3-chloro-4-fluoro-phenylamino)-5-{ 1-[5-(morpholine-4-carbonyl)-thiophen-2-yl]-methylidene-}-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (41 mg, 28%). MS 486 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.32 mmol, 90 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 5-(morpholine-4-carbonyl)-thiophene-2-carbaldehyde | 0.36 mmol, 82 mg | N1(CCOCC1)C(=O)C1=CC=C(S1)C=O | C10H11NO3S
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 4-(3-chloro-4-fluoro-phenylamino)-5-{ 1-[5-(morpholine-4-carbonyl)-thiophen-2-yl]-methylidene-}-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 41 mg, 28% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2SC(=CC2)C(=O)N2CCOCC2)=O | C22H17ClFN5O3S
